US08022248B2
ii) 4-chloro-2-hydroxy-benzeneacetic acid
4-chloro-2-methoxy-benzeneacetic acid (1.4 g), HBr (25 ml), acetic acid (5 ml) were refluxed for 48 h then evaporated under reduced pressure. The residue was azeotroped with toluene and triturated with diethyl ether and isohexane. Yield 0.56 g.

reactant | 4-chloro-2-methoxy-benzeneacetic acid | 1.4 g | ClC1=CC(=C(C=C1)CC(=O)O)OC | C9H9ClO3
reactant | HBr | 25 ml | Br | BrH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-2-hydroxy-benzeneacetic acid | ClC1=CC(=C(C=C1)CC(=O)O)O | C8H7ClO3
